US07767677B2
Synthesis of {4-[6-(6-chloro-1H-benzoimidazol-2-yl)pyridazin-3-YL]-piperazin-1-yl}-(2-trifluoromethylphenyl)methanone
Following the procedure as described in Example 6, making variations only as required to use 6-chloro-2-(6-piperazin-1-yl-pyridazin-3-yl)-1H-benzoimidazole in place of 2-(6-piperazin-1-ylpyridin-3-yl)-1H-benzoimidazole to react with 2-trifluoromethyl-benzoyl chloride, the title compound was obtained as a white powder in 24% yield (0.118 g). 1H NMR (300 MHz, CDCl3) δ 13.4 (m, 1H), 8.15 (d, J=9.5 Hz, 1H), 7.82 (d, J=7.8 Hz, 1H), 7.76 (t, J=7.5 Hz, 1H), 7.70-7.63 (m, 2H), 7.54 (d, J=7.5 Hz, 1H), 7.48-7.45 (m, 1H), 7.42 (d, J=9.6 Hz, 1H), 7.24-7.16 (m, 1H), 3.83-3.59 (m, 6H), 3.30-3.20 (m, 2H). MS (ES+) m/z 487.4 (M+1).

reactant | 6-chloro-2-(6-piperazin-1-yl-pyridazin-3-yl)-1H-benzoimidazole | ClC=1C=CC2=C(NC(=N2)C=2N=NC(=CC2)N2CCNCC2)C1 | C15H15ClN6
reactant | 2-trifluoromethyl-benzoyl chloride | FC(C1=C(C(=O)Cl)C=CC=C1)(F)F | C8H4ClF3O
product | {4-[6-(6-chloro-1H-benzoimidazol-2-yl)pyridazin-3-YL]-piperazin-1-yl}-(2-trifluoromethylphenyl)methanone | 24% yield | ClC=1C=CC2=C(NC(=N2)C2=CC=C(N=N2)N2CCN(CC2)C(=O)C2=C(C=CC=C2)C(F)(F)F)C1 | C23H18ClF3N6O
